US08119840B2
Preparation of Ethambutol Free Base
Ethambutol Dihydrochloride (ETB) is obtained from MP Biomedicals (Aurora, Ohio). ETB (7 grams) are dissolved in 100 mL of a saturated solution of sodium carbonate in 5M NaOH. The solution is stirred for 10 minutes and the free based ETB is extracted with three volumes of chloroform. The solution is dried over sodium sulfate. After filtration, the chloroform is removed by rotary evaporation. Ethambutol is represented in the structure below (a).

reactant | Ethambutol Dihydrochloride | CC[C@@H](CO)NCCN[C@@H](CC)CO.Cl.Cl
reactant | ETB | 7 grams | CC[C@@H](CO)NCCN[C@@H](CC)CO.Cl.Cl
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | NaOH | 5M | [OH-].[Na+]
product | Ethambutol | CC[C@@H](CO)NCCN[C@@H](CC)CO | C10H24N2O2
